US07732365B2
α-Ethynyl-N-1-napthyl-benzenemethanamine.
The general procedure was followed with cinnamyl carbonate (0.188 g, 0.979 mmol) and 1-napthylamine (0.170 g, 1.18 mmol). The reaction was conducted at room temperature for 16 h. 1H NMR analysis of the crude reaction mixture indicated the ratio of regioisomers to be 98/2. The mixture was purified by flash column chromatography on silica gel (1.5% ethyl acetate in hexanes) to give the title compound (0.210 g, 83%). HPLC analysis indicated the enantiomeric excess of the product was 95% [Diacel CHIRALCEL OD-H (0.46 cm×25 cm); hexane/2-propanol=99/1; flow rate=0.6 mL/min; detection wavelength=254 μm; TR=29.3 (minor), 40.3 (major) min]: [α]DRT=(c, CHCl3). 1H NMR (400.13 MHz, CDCl3) δ 7.68 (dd, J=8.4, 1.6 Hz, 1H), 7.62 (dd, J=7.6, 2.0 Hz, 1H), 7.30-7.03 (m, 9H), 6.39 (dd, J=6.6, 1.8 Hz, 1H), 5.97 (ddd, J=17.2, 10.4, 6.0 Hz, 1H), 5.18 (dt, J=16.8, 1.2 Hz, 1H), 5.10 (dt, J=10.0, 1.2 hz, 1H), 4.95 (d, J=6.0 Hz, 1H), 4.57 (br s, 1H). 13C NMR (100.59 MHz, CDCl3) δ 141.95, 141.57, 138.88, 134.17, 128.74, 128.67, 127.46, 127.08, 126.41, 125.61, 124.69, 123.37, 119.79, 117.59, 116.25, 106.20, 60.86. Anal. Calcd for C19H17N: C, 87.99; H, 6.61; N, 5.40. Found: C, 88.07; H, 6.53; N, 5.49.

reactant | cinnamyl carbonate | 0.979 mmol, 0.188 g | C(OCC=CC1=CC=CC=C1)([O-])=O
reactant | 1-napthylamine | 1.18 mmol, 0.170 g | C1(=CC=CC2=CC=CC=C12)N | C10H9N
product | α-Ethynyl-N-1-napthyl-benzenemethanamine | 0.210 g, 83% | C(#C)C(NC1=CC=CC2=CC=CC=C12)C1=CC=CC=C1 | C19H15N
